US07342039B2
To a solution of 4-nitro-anthranilic acid (2.200 g, 10.9 mmol, 1 eq) in benzene/methanol (4/1) (100 mL) was added TMSCHN2 (2M in hexanes) (12 mL, 24 mmol, 2.2 eq). The reaction was stirred at room temperature for 30 minutes and then concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (20/80) to afford 4-nitro-anthranilic acid methyl ester (1.841 g, 86%) as a bright yellow solid. 1H NMR (300 MHz, CDCl3); δ 8.00 (d, 1H), 7.50 (d, 1H), 7.40 (dd, 1H), 3.92 (s, 3H).

reactant | 4-nitro-anthranilic acid | 10.9 mmol, 2.200 g, 1 eq | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)N | C7H6N2O4
reactant | TMSCHN2 | 24 mmol, 2M, 12 mL, 2.2 eq | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | benzene methanol | 100 mL | C1=CC=CC=C1.CO
product | 4-nitro-anthranilic acid methyl ester | 1.841 g, 86% | COC(C=1C(N)=CC(=CC1)[N+](=O)[O-])=O | C8H8N2O4
